US07842685B2
2-(2-Fluoro-4-(2-methoxyvinyl)phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (570 mg, 1.42 mmol) was dissolved in 1,4-dioxane (14 mL) before concentrated hydrochloric acid (1.18 mL, 14.16 mmol) was added and stirred at 65° C. for 1 h. The reaction mixture was diluted with 100 mL of DCM, added to a separatory funnel, partitioned with 1 N NaOH (aqueous), washed with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)acetaldehyde after flash chromatography. MS (ESI) m/z: Calculated: 388.1; Observed: 389.0 (M++H).

reactant | 2-(2-Fluoro-4-(2-methoxyvinyl)phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 1.42 mmol, 570 mg | FC1=C(C=CC(=C1)C=COC)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C24H19FN2OS
reactant | hydrochloric acid | 14.16 mmol, 1.18 mL | Cl | ClH
solvent | 1,4-dioxane | 14 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)acetaldehyde | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CC=O | C23H17FN2OS
